US06949579B2
785 mg of 4-bromo-N,N-dimethylaniline, 646 mg of sodium carbonate, 10 cm3 of water and 196 mg of tetrakis(triphenylphosphine)palladium are added to 1 g of N-[6-(4,4,5,5-tetramethyl [1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 56, in 50 cm3 of dioxane. The medium is then refluxed for 18 hours, the resulting mixture is then allowed to return to room temperature and 75 cm3 of ethyl acetate and 75 cm3 of water are added. The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.) to give 1.6 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). 170 mg of N-[6-[4-(dimethylamino)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow oil.

reactant | 4-bromo-N,N-dimethylaniline | 785 mg | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | sodium carbonate | 646 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[6-(4,4,5,5-tetramethyl [1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | CC1(OB(OC1(C)C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C | C23H38BN3O4Si
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 196 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 75 cm3 | O | H2O
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 10 cm3 | O | H2O
product | N-[6-[4-(dimethylamino)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 170 mg | CN(C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C | C25H36N4O2Si
